US20010027196A1
2-Amino-4-furan-2-yl-6-phenethyloxy-pyrimidine-5-carbonitrile
From 2-amino-4-furan-2-yl-6-methanesulfonyl-pyrimidine-5-carbonitrile, phenethyl alcohol and DBU in DME. EI-MS m/e (%): 306 (M+, 4), 202 ([M—C6H5CH═CH2]+, 48), 104 (21).

reactant | 2-amino-4-furan-2-yl-6-methanesulfonyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)S(=O)(=O)C | C10H8N4O3S
reactant | phenethyl alcohol | C(CC1=CC=CC=C1)O | C8H10O
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-furan-2-yl-6-phenethyloxy-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)OCCC1=CC=CC=C1 | C17H14N4O2
